US04166178
In a phosphate buffer solution of pH 6.4 (3 ml) are dissolved 5-mercapto-2-methyl-1,3,4-thiadiazole (79 mg), sodium hydrogen carbonate (92 mg) and 7β-(1H-tetrazol-1-yl)acetamido-3-[2-(N-carboethoxysulfamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid (298 mg) and the resultant solution is heated at 60° C. for one hour. Then, the mixture is concentrated and the residue is subjected to column chromatography on Sephadex LH-20, elution being carried out with water. The fractions containing the desired product are pooled and lyophilized. The procedure provides sodium 7β-(1H-tetrazol-1-yl)acetamido-3-(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylate. This product is in good agreement with the authentic sample in NMR spectrum.

reactant | 5-mercapto-2-methyl-1,3,4-thiadiazole | 79 mg | SC1=NN=C(S1)C | C3H4N2S2
reactant | sodium hydrogen carbonate | 92 mg | C(O)([O-])=O.[Na+]
reactant | 7β-(1H-tetrazol-1-yl)acetamido-3-[2-(N-carboethoxysulfamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid | 298 mg | N1(N=NN=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C2=C(C=CC=C2)S(NC(=O)OCC)(=O)=O)=O)C(=O)O)C1=O | C21H21N7O10S2
solvent | phosphate | P(=O)([O-])([O-])[O-]
product | sodium 7β-(1H-tetrazol-1-yl)acetamido-3-(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylate | N1(N=NN=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)[O-])C1=O.[Na+] | InChI=1S/C14H14N8O4S3.Na/c1-6-17-18-14(29-6)28-4-7-3-27-12-9(11(24)22(12)10(7)13(25)26)16-8(23)2-21-5-15-19-20-21;/h5,9,12H,2-4H2,1H3,(H,16,23)(H,25,26);/q;+1/p-1/t9-,12-;/m1./s1
